US04317823
2.4 g of 1,3-dimethyl-4-[(2-nitrophenyl)amino]pyrazole-5-carboxylic acid phenyl ester are hydrogenated in 150 ml of toluene and 5 ml of glacial acetic acid using 0.75 g of 10% strength palladium-on-charcoal at room temperature for 2.1 hours in a circulatory hydrogenation apparatus. The solution is filtered and concentrated in vacuo; the residue is chromatographed over a silica gel column using 1:1 petroleum ether (50°/70° C.)/ethyl acetate to yield 1.1 g of 1,3-dimethyl-1,4,9,10-tetrahydropyrazolo[4,3-b][1,5]benzodiazepin-10-one, mp 189° to 190° C.

reactant | 1,3-dimethyl-4-[(2-nitrophenyl)amino]pyrazole-5-carboxylic acid phenyl ester | 2.4 g | C1(=CC=CC=C1)OC(=O)C1=C(C(=NN1C)C)NC1=C(C=CC=C1)[N+](=O)[O-] | C18H16N4O4
reactant | acetic acid | 5 ml, 0.75 g | C(C)(=O)O | C2H4O2
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
catalyst | palladium-on-charcoal | [Pd] | Pd
product | 1,3-dimethyl-1,4,9,10-tetrahydropyrazolo[4,3-b][1,5]benzodiazepin-10-one | 1.1 g | CN1N=C(C=2NC3=C(NC(C21)=O)C=CC=C3)C | C12H12N4O
